US07491822B2
Acetonitrile (6 ml) was added to 2-benzyl-4-hydroxymethylene-5-oxazolone sodium salt (0.50 g, 2.22 mmol) and benzamidine hydrochloride (0.35 g, 2.22 mmol), and the mixture was stirred overnight at 80° C. Water (3 ml) was added, and the mixture was stirred. The precipitate was collected by filtration, and the obtained crystals were washed with water and vacuum dried to give 2-phenyl-6-oxo-5-phenylacetylamino-1,6-dihydropyrimidine (0.51 g, 1.67 mmol).

reactant | Acetonitrile | 6 ml | C(C)#N | C2H3N
reactant | 2-benzyl-4-hydroxymethylene-5-oxazolone sodium salt | 2.22 mmol, 0.50 g | [Na].C(C1=CC=CC=C1)C=1OC(C(N1)=CO)=O
reactant | benzamidine hydrochloride | 2.22 mmol, 0.35 g | Cl.C(C1=CC=CC=C1)(=N)N
solvent | Water | 3 ml | O | H2O
product | 2-phenyl-6-oxo-5-phenylacetylamino-1,6-dihydropyrimidine | 1.67 mmol, 0.51 g | C1(=CC=CC=C1)C=1NC(C(=CN1)NC(CC1=CC=CC=C1)=O)=O | C18H15N3O2
